data/mechanisms/records/IMS8-EQ8.15a.json
{"mechanism_id": "IMS8-EQ8.15a", "species": [{"species_id": "protonated_phenyl_3_butenyl_ether", "mapped_smiles": "[OH+:7]([CH2:9][CH:10]([1H:20])[CH:11]=[CH2:12])[c:1]1[cH:2][cH:3][cH:4][cH:5][cH:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "protonated_phenol", "mapped_smiles": "[OH+:7]([1H:20])[c:1]1[cH:2][cH:3][cH:4][cH:5][cH:6]1", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "butadiene_neutral", "mapped_smiles": "[CH2:9]=[CH:10][CH:11]=[CH2:12]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["protonated_phenyl_3_butenyl_ether"]}, {"state_id": "state_products", "species_ids": ["protonated_phenol", "butadiene_neutral"]}], "steps": [{"step_id": "step_hydrogen_rearrangement", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [10, 20]}, "target": {"type": "bond", "atom_maps": [9, 10]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [7, 9]}, "target": {"type": "bond", "atom_maps": [7, 20]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_hydrogen_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 148, "equation": "8.15", "section": "8.x Proton-bound complexes in CI: protonated phenyl 3-butenyl ether"}, "confidence": 0.8, "curator_note": "The book (eq 8.15) DRAWS a proton-bound complex [PhO...H...butadiene] as the intermediate from the methane-CI [M+H]+ ion of phenyl 3-butenyl ether; the non-covalent complex is NOT separately encoded (partial bonds not RDKit-representable) - this record encodes the net rH reaction precursor->protonated phenol (100%). 0 electron-pushing arcs drawn (only 'rH' reaction arrows). Equation 8.15, branch giving protonated phenol (labelled 100% on the page). Protonated phenyl 3-butenyl ether (C6H5-O+(H)-CH2CH2CH=CH2, the MH+ from exothermic methane CI) rearranges by rH ('rH' on the reaction arrow) to a proton-bound complex [phenol...H+...butadiene] (drawn explicitly on the page) which splits, here leaving the proton on phenol (PA 8.5 eV) -> protonated phenol PhOH2+ (m/z 95) + neutral 1,3-butadiene. INTERMEDIATE OMITTED: the drawn proton-bound complex is a non-covalent ion-neutral complex, not cleanly representable as a covalent SMILES, so this record encodes the NET rearrangement as one formal-arrow step. Book draws 0 electron-pushing arcs (reaction-level scheme with reaction arrows and a branch point); both encoded moves are reconstructed for electron balance (not drawn on the page): move <1> routes a C10-H20 sigma pair (a beta H of the butenyl chain) into the forming C9=C10 pi bond of butadiene, move <2> routes the O7-C9 sigma pair into the new O7-H20 bond that makes PhOH2+. A 1,4-hydrogen shift/1,2-elimination across the O-CH2-CH2 unit; closed-shell throughout. The migrating H is written as isotope-tagged [1H:20] so RDKit preserves its atom map; the original O-proton (H on O7) is implicit and non-migrating in this branch."}], "ms_context": {"ionization_method": "CI", "polarity": "positive", "adduct": "[M+H]+", "activation_method": "chemical ionization", "electron_energy_ev": null, "precursor_mz": 149.0955, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_PhOH2", "species_id": "protonated_phenol", "step_id": "step_hydrogen_rearrangement", "observed_mz": 95.0486, "relative_intensity": 1.0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
